US07495103B2
To a solution of 7-nitro-3,4-dihydro-2H-naphthalen-1-one (500 mg, 2.62 mmol) in pyridine (2 mL) was added hydroxylamine solution (1 mL, ˜50% solution in water). The reaction was stirred at room temperature for 1 h, then concentrated and purified by column chromatography (10-50% ethyl acetate-hexanes) to yield 7-nitro-3,4-dihydro-2H-naphthalen-1-one oxime (471 mg, 88%). HPLC ret. time 2.67 min, 10-99% CH3CN, 5 min run; ESI-MS 207.1 m/z (MH+).

reactant | 7-nitro-3,4-dihydro-2H-naphthalen-1-one | 2.62 mmol, 500 mg | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=O | C10H9NO3
reactant | hydroxylamine | 1 mL | NO | H3NO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 7-nitro-3,4-dihydro-2H-naphthalen-1-one oxime | 471 mg, 88% | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=NO | C10H10N2O3
